US07608639B2
1-(3-Bromo-phenoxy)-4-chloro-2-phenoxy-benzene
A solution of 4-chloro-2-phenoxy-phenol (1.65 g, 7.5 mmol), 1-bromo-3-iodobenzene (6.35 g, 22.4 mmol), copper(I) chloride (0.37 g, 3.74 mmol), 2,2,6,6-tetramethyl-3,5-heptanedione (0.345 g, 1.87 mmol), and cesium carbonate (2.93 g, 9 mmol) in NMP (20 mL) is heated to 120° C. The reaction is stirred overnight and cooled to rt. The reaction is quenched with 1N aqueous HCL and extracted with ethyl ether. The organic is washed with brine, dried over sodium sulfate, filtered, and the solvent is removed. The crude is purified by silica gel column chromatography using 5/1 hexanes/ethyl acetate to elute the pure product. The solvent is removed to afford 1.13 g (40%) of the desired product. 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C18H12BrClO2 374, found 375 and 377 (M+1 and M+3, 100%).

reactant | 4-chloro-2-phenoxy-phenol | 7.5 mmol, 1.65 g | ClC1=CC(=C(C=C1)O)OC1=CC=CC=C1 | C12H9ClO2
reactant | 1-bromo-3-iodobenzene | 22.4 mmol, 6.35 g | BrC1=CC(=CC=C1)I | C6H4BrI
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 1.87 mmol, 0.345 g | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | cesium carbonate | 9 mmol, 2.93 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
catalyst | copper(I) chloride | 3.74 mmol, 0.37 g | [Cu]Cl
product | 1-(3-Bromo-phenoxy)-4-chloro-2-phenoxy-benzene | 1.13 g, 40% | BrC=1C=C(OC2=C(C=C(C=C2)Cl)OC2=CC=CC=C2)C=CC1 | C18H12BrClO2
